US05447657
A mixture of 1.03 g of 8-ethynyl-1,4-dioxaspiro[4.5]decane, 1.197 g 4-bromo-4'-fluorobiphenyl, 0.11 g of tetrakis(triphenylphosphine)palladium, 0.041 g of copper(I) bromide and 45 ml of triethylamine was heated to boiling for 4.5 hours. After cooling the mixture was diluted with diethyl ether, washed twice with water, dried over sodium sulphate, filtered and concentrated. The crude 8-[(4'-fluoro-4-biphenylyl)ethynyl]-1,4-dioxaspiro[4.5]decane (1.82. g) obtained was purified by chromatography on 35 g of silica gel with hexane/ethyl acetate (vol. 9:1). Yield 1.30 g.

reactant | 8-ethynyl-1,4-dioxaspiro[4.5]decane | 1.03 g | C(#C)C1CCC2(OCCO2)CC1 | C10H14O2
reactant | 4-bromo-4'-fluorobiphenyl | 1.197 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)F | C12H8BrF
reactant | triethylamine | 45 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | tetrakis(triphenylphosphine)palladium | 0.11 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) bromide | 0.041 g | [Cu]Br
product | 8-[(4'-fluoro-4-biphenylyl)ethynyl]-1,4-dioxaspiro[4.5]decane | FC1=CC=C(C=C1)C1=CC=C(C=C1)C#CC1CCC2(OCCO2)CC1 | C22H21FO2
